US04540583
Preparation of 1,4-bis(2-morpholinoethylamino)anthraquinone
A 9.60 g. portion of quinizarin, 46.90 g. of N-(2-aminoethyl)morpholine and 56 ml. of water are reacted as described in Example 1 giving 9.92 g. of the desired product as a blue-black solid, mp. 158°-159° C.

reactant | quinizarin | C=1C=CC2=C(C1)C(=O)C3=C(C=CC(=C3C2=O)O)O | C14H8O4
reactant | N-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
solvent | water | O | H2O
product | 1,4-bis(2-morpholinoethylamino)anthraquinone | O1CCN(CC1)CCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCCN1CCOCC1 | C26H32N4O4
